Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Vertigo
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ R handed woman (Atrius) 
___
speaking with a past medical history significant for 
hypertension
(poorly controlled over the last month), GERD, Hypothyroidism,
and catatracts who presents to the ER with her daughter for
evaluation of explosive onset of vertigo, nausea, and L sided
numbness. 

Briefly, the patient awoke early this morning and proceeded to
pray which she does every morning at 7:30 AM. She was sitting on
the ground praying and looking straight ahead when suddenly she
felt the explosive onset of room spinning. She then made her way
to a chair and called for her daughter. Her daughter ___ 
notice
any abnormal facial asymettry or weakness. The patietn was
sitting on the chair and proceeded to vomit 6x. Over the next 
few
minutes she started to breath heavily and have perioral tingling
that lasted a few minutes then stopped. Over the next ___ minutes
to an hour she started to develop a left sided ache on her head
with radiation down her neck and a sensation of numbness over 
her
L face and arm/body. The vertigo then persisted for a few hours
and subsided by 11 AM. The vertigo was constant and did not
change whether she was resting or moving around. She continues 
to
have the headache and L sided sensory abnormalities however
though the vertigo has subsided. 

Of note, the patients daughter who provided details of the
history states that her blood pressures have been elevated for
the past month. At her PCP office last month the readings were
150-160, the plan was to monitor and see if she needed 
medication
adjustment. At home her BPs have been elevated to the 180s
however her daughter feels that the machine may be reading
falsely elevated pressures. Previously was taking aspirin but
devleoped a deep cut on her hand and decided to stop taking
aspirin at that time (over a month ago).

 
Past Medical History:
1. Hypertension
2. GERD
3. Hypothyroidism
4. Cataracts 
5. Pre diabetic 
 
Social History:
___
Family History:
Brother died of CVA in his ___
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no nuchal rigidity 
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic: conducted with ___ interpretation 
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty.  Language is fluent with intact repetition
and comprehension. Normal prosody. There were no paraphasic
errors. Pt was able to name both high and low frequency objects. 

Able to read without difficulty. Speech was not dysarthric. Able
to follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 4 to 2mm and sluggish. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Decreased sensation on L with pinprick and light touch in
V1-V2 distribution by 30% (feels 70% of sensation) 
VII: decreased wrinkle lines on L side of forehead, patient has
diffiuclty raising either eyebrow. ?very subtle flattening of
LNLFF and shows less teeth on L with smile, slower to raise on L
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5     5    5    5      5     5    5       5        5     5    

5   
R  5     5    5   5       5     5   5        5        5     5    

5   

-Sensory: diminished sensation to  pin prick and light touch on 
L
arm, torso and L leg by 30% compared to R

-DTRs:
  Bi Tri ___ Pat Ach
L  0  0    0    0   0
R  0  0    0    0   0
Plantar response was flexor on L, mute on R

-Coordination: very mild intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: Slow/cautious.  Narrow-based, normal stride and arm 
swing.

DISCHARGE PHYSICAL EXAM:
General: Awake, cooperative, NAD, lying in bed awake, ___
speaking. interview with ___ phone interpreter
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no nuchal rigidity 
Pulmonary: Normal work of breathing
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic: conducted with ___ interpretation 
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty.  Language is fluent with intact repetition
and comprehension. Normal prosody. There were no paraphasic
errors. Pt was able to name both high and low frequency objects. 

Able to read without difficulty. Speech was not dysarthric. Able
to follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
sensation appropriate on face. 
VII: minimal flattening of LNLFF and shows less teeth on L with
smile, slower to raise on L
VIII: Hearing intact
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5     5    5    5      5     5    5       5        5     5    

5   
R  5     5    5   5       5     5   5        5        5     5    

5   

-Sensory: intact to light touch throughout

-DTRs: not tested today

-Coordination: very mild intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: not tested today

 
Pertinent Results:
___ 02:20PM BLOOD WBC-7.9 RBC-4.60 Hgb-13.1 Hct-42.1 MCV-92 
MCH-28.5 MCHC-31.1* RDW-12.5 RDWSD-41.3 Plt ___
___ 06:20AM BLOOD WBC-6.1 RBC-4.40 Hgb-12.5 Hct-40.1 MCV-91 
MCH-28.4 MCHC-31.2* RDW-12.4 RDWSD-41.3 Plt ___
___ 02:20PM BLOOD ___ PTT-29.5 ___
___ 06:20AM BLOOD ___ PTT-28.8 ___
___ 02:20PM BLOOD Glucose-97 UreaN-9 Creat-0.6 Na-141 
K-6.8* Cl-107 HCO3-22 AnGap-12
___ 06:20AM BLOOD Glucose-91 UreaN-11 Creat-0.7 Na-144 
K-3.8 Cl-109* HCO3-23 AnGap-12
___ 02:20PM BLOOD ALT-19 AST-65* AlkPhos-39 TotBili-0.4
___ 02:20PM BLOOD Lipase-20
___ 02:20PM BLOOD cTropnT-<0.01
___ 02:20PM BLOOD Albumin-4.3 Calcium-8.9 Phos-3.9 Mg-2.2
___ 06:20AM BLOOD Calcium-8.7 Phos-3.4 Mg-2.3
___ 02:20PM BLOOD %HbA1c-6.0 eAG-126
___ 02:20PM BLOOD LDLmeas-149*
___ 02:20PM BLOOD TSH-3.9
___ 02:20PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 02:20PM BLOOD Lactate-1.8 Creat-0.6 K-5.0

___ 02:35PM URINE Color-Straw Appear-Clear Sp ___
___ 02:35PM URINE Blood-TR* Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.5 Leuks-NEG
___ 02:35PM URINE RBC-0 WBC-<1 Bacteri-FEW* Yeast-NONE 
Epi-0
___ 02:35PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

___ H&N
1. No evidence of an acute intracranial abnormality.
2. There is a 4 mm saccular aneurysm of the terminal right 
internal carotid
artery terminal with a ___. The major vessels of the neck, circle of ___, and their 
principal
intracranial branches otherwise appear without dissection, flow 
limiting
stenosis, or occlusion.
4. Multiple thyroid nodules measuring up to 1.2 cm. Per ACR 
guidelines on
incidental thyroid nodules, no dedicated thyroid follow-up 
imaging is
recommended.

___ Head w/o
There is no evidence of restricted diffusion to suggest acute 
infarction.  No
evidence of acute intracranial hemorrhage.  The ventricles and 
sulci are
age-appropriate.  No mass effect or midline shift.
 
Scattered T2 and FLAIR hyperintense foci in the periventricular 
and
subcortical white matter are nonspecific, but likely reflect 
chronic small
vessel ischemic changes.
 
Mild mucosal thickening of the paranasal sinuses.  Unremarkable 
intraorbital
contents.
 
Luminal irregularity and possible aneurysm formation of the 
distal right
internal carotid artery as previously identified on the CTA head 
and neck
dated ___, is not evident on this exam.  Otherwise, 
the major
intracranial arterial and venous flow voids are preserved.
 
Brief Hospital Course:
Ms. ___ presented to ___ due to acute onset of vertigo, 
nausea and numbness involving left arm and face. She was 
evaluated by Neurology in ED and ultimately admitted to Stroke 
service. She was started on ASA and based on elevated LDL on her 
lipid profile she was started on Atorvastatin 40mg qpm. MRI Head 
was performed which showed no stroke. She was discharged home 
with plan for Neurosurgery and Neurology follow up.

TRANSITIONAL ISSUES:
-Pt should restart on ASA and start taking Atorvastatin
-Pt should follow up with her PCP for ___ 
evaluation
-Pt should follow up with Dr. ___ in Neurology ___ n next 
few months for repeat neurologic assessment. 
-Pt should follow up with Dr. ___ in ___ ___ in 
next few weeks for further management of known ICA aneurysm.
 
Medications on Admission:
1. Fish oil
2. Alendronate
3. B12 
4. Levothyroxine 75mcg daily 
 
Discharge Medications:
1. Fish oil
2. Alendronate
3. B12 
4. Levothyroxine 75mcg daily 
5.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*2 
6.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth At bedtime Disp #*30 
Tablet Refills:*2 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Migraine w/ aura

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  
 You were hospitalized due to symptoms of vertigo and headache 
concerning for an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.  
 Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
Fortunately, after bedside examination and MRI imaging, we have 
determined that you did not have a stroke. However, in order to 
prevent future strokes, we plan to modify some risk factors. 
Your risk factors are:  
High blood pressure
High cholesterol
 We are changing your medications as follows:  
Please restart Aspirin 81mg daily.
Please start taking Atorvastatin 40mg at bedtime.
 Please take your other medications as prescribed.  
 Please follow up with Neurology and your primary care physician 
as listed below. We recommend discussing your blood pressure 
issues with your PCP.
 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

 Sincerely,  
 Your ___ Neurology Team  

 
Followup Instructions:
___